US07645773B2
2-(2,3-Dichloro-phenyl)-thiazole-4-carboxylic acid (4.1 g, 15 mmol) was dissolved in a mixture of 50 mL of DMF and 50 mL of dioxane. To this solution diisopropylethylamine (7.8 mL, 45 mmol) and ethanaminium, N-[(dimethylamino)[(2,5-dioxo-1-pyrrolidinyl)oxy]methylene]-N-methyl-, tetrafluoroborate(1-) (TSTU, Aldrich Inc.; 6.8 g, 22.5 mmol) was added. The reaction mixture was stirred at room temperature for 3 h after which 150 mL water was added and the organic layer was separated. The organic layer was extracted with 50 mL water twice, dried and concentrated. The crude mixture was washed with 100 mL isopropanol, to give 2-(2,3-dichloro-phenyl)-thiazole-4-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester (4.8 g, 87% yield) and used without further purification.

reactant | 2-(2,3-Dichloro-phenyl)-thiazole-4-carboxylic acid | 15 mmol, 4.1 g | ClC1=C(C=CC=C1Cl)C=1SC=C(N1)C(=O)O | C10H5Cl2NO2S
reactant | diisopropylethylamine | 45 mmol, 7.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethanaminium | C(C)[NH3+]
reactant | water | 150 mL | O | H2O
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 2-(2,3-dichloro-phenyl)-thiazole-4-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester | 4.8 g, 87% yield | O=C1N(C(CC1)=O)OC(=O)C=1N=C(SC1)C1=C(C(=CC=C1)Cl)Cl | C14H8Cl2N2O4S
